US06004959
5-isopropoxy-2,4-dimethoxy-fluoren-9-one
Similar to Example 7C prepare the LDA reagent by adding dropwise n-butyl lithium (8.2 mL, 21 mmole of 2.5 M) to diisopropyl amine (2.0 g, 2.8 mL/d=0.722, 20.3 mmol) at -50° C. in 50 mL tetrahydrofuran (THF) under argon. Allow reaction to warm to 0° C. then dropwise add N,N-diethyl-6-isopropoxy-2',4'-dimethoxy-biphenyl-2-carboxamide (3.0 g, 8.1 mmole) in 50 mL THF. Allow reaction to further warm to room temperature and stir overnight. Continue procedure from Example 7C to obtain 2.0 g (6.7 mmole, 83%) of the title compound. (EtOAc/hexane 4:6, Rf=0.50)

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | n-butyl lithium | 21 mmole, 2.5 M, 8.2 mL | C(CCC)[Li]
reactant | diisopropyl amine | 20.3 mmol, 2.0 g | C(C)(C)NC(C)C | C6H15N
reactant | N,N-diethyl-6-isopropoxy-2',4'-dimethoxy-biphenyl-2-carboxamide | 8.1 mmole, 3.0 g | C(C)N(C(=O)C=1C(=C(C=CC1)OC(C)C)C1=C(C=C(C=C1)OC)OC)CC | C22H29NO4
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | THF | 50 mL | O1CCCC1 | C4H8O
product | 5-isopropoxy-2,4-dimethoxy-fluoren-9-one | 6.7 mmole, 2.0 g, 83% | C(C)(C)OC1=C2C=3C(=CC(=CC3C(C2=CC=C1)=O)OC)OC | C18H18O4
